US04775674
Sodium (0.386 g, 0.017 g, atom) was dissolved in ethanol (70 mL) and diethyl 2,4-dioxoimidazolidine-5-phosphonate (3.96 g, 17 mmol) added. After 1 hour, a solution of 2-nitro-5-[4-(phenylsulfonyl)butoxy]benzaldehyde (4.70 g, 13 mmol) (prepared by alkylating 5-hydroxy-2-nitrobenzaldehyde with 4-phenylsulfonylbutyl bromide) in ethanol and chloroform was added. After 20 minutes, the solvent was evaporated and the residue extracted with chloroform to give a foamy solid which was dissolved in acetontirile. Diethyl ether was added to the point of precipitate nd the mixture allowed to stand overnight. A solid (0.86 g) was collected and further purified gy crystallication from acetonitrile-diethyl ether to give 5-[[2-nitro-5-[4-(phenylsulfonyl)butoxy]phenyl]methylene]-2,4-imidazolidinedione (0.5 g). Concentration of the combined mother liquors afforded 4.1 g of material that was used without further purification. Yield (4.6 g, 61%). Crystallized material had m.p. 150°-152° C.

reactant | Sodium | 0.386 g | [Na] | Na
reactant | diethyl 2,4-dioxoimidazolidine-5-phosphonate | 17 mmol, 3.96 g | O=C1NC(C(N1)=O)P(OCC)(=O)OCC | C7H13N2O5P
reactant | 2-nitro-5-[4-(phenylsulfonyl)butoxy]benzaldehyde | 13 mmol, 4.70 g | [N+](=O)([O-])C1=C(C=O)C=C(C=C1)OCCCCS(=O)(=O)C1=CC=CC=C1 | C17H17NO6S
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | ethanol | 70 mL | C(C)O | C2H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-[[2-nitro-5-[4-(phenylsulfonyl)butoxy]phenyl]methylene]-2,4-imidazolidinedione | 0.5 g | [N+](=O)([O-])C1=C(C=C(C=C1)OCCCCS(=O)(=O)C1=CC=CC=C1)C=C1C(NC(N1)=O)=O | C20H19N3O7S
